US06440995B1
(RS)-1-Amino-3-(7-methoxy-2-phenyl-quinolin-4-ylamino)-propan-2-ol hydrochloride
The title compound, m.p. 184-186° C. (and MS: m/e=323 (M+), was prepared from 4-chloro-7-methoxy-2-phenyl-quinoline and 1,3-diamino-2-propanol.

reactant | 4-chloro-7-methoxy-2-phenyl-quinoline | ClC1=CC(=NC2=CC(=CC=C12)OC)C1=CC=CC=C1 | C16H12ClNO
reactant | 1,3-diamino-2-propanol | NCC(CN)O | C3H10N2O
product | (RS)-1-Amino-3-(7-methoxy-2-phenyl-quinolin-4-ylamino)-propan-2-ol hydrochloride | Cl.NCC(CNC1=CC(=NC2=CC(=CC=C12)OC)C1=CC=CC=C1)O | InChI=1S/C19H21N3O2.ClH/c1-24-15-7-8-16-18(21-12-14(23)11-20)10-17(22-19(16)9-15)13-5-3-2-4-6-13;/h2-10,14,23H,11-12,20H2,1H3,(H,21,22);1H
